US09428500B2
2-(4-benzyl-3-(trifluoromethyl)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane
In a Schlenk tube with a stirring bar, 1-benzyl-4-bromo-2-(trifluoromethyl)benzene (89 mg, 0.282 mmol), potassium acetate AcOK (83 mg, 3 eq), bis(pinacolato)diboron (93 mg, 1.3 eq), and PdCl2(dppf) (21 mg, 0.1 eq) were placed. The tube was evacuated and back-filled with nitrogen (this was repeated three additional times). Then, 4 mL of degassed 1,4-dioxane (C=0.07M) was introduced. The reaction mixture was allowed to stir at 100° C. for 15 h. After cooling to r.t. and diluting with AcOEt, the mixture was filtered through a Celite® pad. The solvents were removed in vacuo. The crude product was purified by silica gel flash chromatography (PE/DCM 100:0 to 70:30) to afford the desired compound in 82% yield (84 mg) as uncolored oil. 1H NMR (300 MHz, CDCl3) δ 8.13 (s, 1H), 7.87 (d, J=7.7 Hz, 1H), 7.30 (tt, J=7.9, 1.8 Hz, 2H), 7.26-7.22 (m, 1H), 7.21 (d, J=7.6 Hz, 1H), 7.15 (d, J=8.4 Hz, 1H), 4.22 (s, 2H), 1.36 (s, 12H); 13C NMR (75 MHz, CDCl3) δ 142.6 (q, J=1.6 Hz, C), 139.9 (C), 138.1 (CH), 132.3 (q, J=5.5 Hz, CH), 131.3 (CH), 129.2 (CH), 128.6 (CH), 128.4 (q, J=29.7 Hz, C), 126.4 (CH), 124.8 (q, J=274.2 Hz, C), 84.3 (2C), 38.1 (d, J=1.9 Hz, CH2), 25.0 (4CH3); MS (ESI) m/z: 380.1 [M+NH4]′; 742.2 [2M+NH4]+.

reactant | 1-benzyl-4-bromo-2-(trifluoromethyl)benzene | 0.282 mmol, 89 mg | C(C1=CC=CC=C1)C1=C(C=C(C=C1)Br)C(F)(F)F | C14H10BrF3
reactant | bis(pinacolato)diboron | 93 mg, 1.3 eq | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
catalyst | PdCl2(dppf) | 21 mg, 0.1 eq | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(4-benzyl-3-(trifluoromethyl)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 82% yield | C(C1=CC=CC=C1)C1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)C(F)(F)F | C20H22BF3O2
